US07612075B2
B. 7-Chloro-3-methyl-2H-isoquinoline-1-one.
3-(4-Chlorophenyl)-2-methyl-acryloyl azide (11.0 g, 50 mmol) is dissolved in 80 mL of diphenyl ether. The solution is added dropwise to a solution of tributyl amine (11.8 mL, 50 mmol) in 170 mL of diphenyl ether at 210° C. After 4 hours., the solution is cooled 50° C. and diluted with 1.5 L of hexanes. The resulting solid is collected by filtration giving the title compound as a white solid (7.2 g, 37 mmol). 1H NMR (d6-DMSO, 300 MHz) δ11.4 (bs, 1H), 8.02 (s, 1H), 7.67 (d, 1H), 7.55 (d, 1H), 6.34 (s, 1H), 2.18 (s, 3H).

reactant | 3-(4-Chlorophenyl)-2-methyl-acryloyl azide | 50 mmol, 11.0 g | ClC1=CC=C(C=C1)C=C(C(=O)N=[N+]=[N-])C | C10H8ClN3O
reactant | tributyl amine | 50 mmol, 11.8 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | diphenyl ether | 80 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | diphenyl ether | 170 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7-Chloro-3-methyl-2H-isoquinoline-1-one | 37 mmol, 7.2 g | ClC1=CC=C2C=C(NC(C2=C1)=O)C | C10H8ClNO
